US06476038B1
F. 7-Chloro-2,5-dimethyl-3-(2,4-dimethoxyphenyl)-pyrazolo[1,5-a]pyrimidine
Slurry 7-hydroxy-2,5-dimethyl-3-(2,4-dimethoxyphenyl)-pyrazolo[1,5-a] pyrimidine in 10 mL POCl3 and reflux at 130° C. under N2. After 2 h, monitoring by TLC (alcohol Rf=0.5, chloride Rf=1.0; EtOAc as eluent), quench the reaction carefully at ambient temperature by diluting with 50 mL CH2Cl2 and pouring slowly into non-stirring saturated NaHCO3. Adjust stirring speed to control rate of quenching of residual POCl3 and stir until gas evolution ceases. Separate the layers and extract the aqueous layer with CH2Cl2 (2×50 mL). Pool the organic layers and dry over Na2SO4. Filter and evaporate to yellow oil, which is used directly without further purification.

reactant | 7-hydroxy-2,5-dimethyl-3-(2,4-dimethoxyphenyl)-pyrazolo[1,5-a] pyrimidine | OC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2)OC)OC)C)C | C16H17N3O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-2,5-dimethyl-3-(2,4-dimethoxyphenyl)-pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2)OC)OC)C)C | C16H16ClN3O2
